US06908916B2
A. Preparation of 5-Methyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid
A solution of LiOH (25 gm, 10 equiv) in water (416 mL) was added to a solution of 5-methyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid methyl ester (23.0 gm, 0.104 mol) in a mixture of THF (1.2 L) and MeOH (0.4 L). This was heated at 65° C. for 20 h and then concentrated in vacuo to about 200 mL. Water (400 mL) was added and the pH was adjusted to 4 using conc. aqueous HCl. The precipitate was collected, washed with water, and dried to give the acid (18.2 gm, 90%). 1H NMR (MeOH-D4) δ 2.67 (s, 3H), 7.63 (s, 1H), 7.84 (s, 1H). HPLC Ret Time: 0.97 min (YMC C18 S5, 4.6×50 mm column, 3 min gradient, 4 mL/min).

reactant | LiOH | 25 gm, 10 equiv | [Li+].[OH-]
reactant | 5-methyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid methyl ester | 0.104 mol, 23.0 gm | COC(=O)C=1C(=C2C(NC=NN2C1)=O)C | C9H9N3O3
solvent | water | 416 mL | O | H2O
solvent | THF | 1.2 L | C1CCOC1 | C4H8O
solvent | MeOH | 0.4 L | CO | CH4O
product | 5-Methyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazine-6-carboxylic acid | 18.2 gm, 90% | CC=1C(=CN2N=CNC(C21)=O)C(=O)O | C8H7N3O3
